US06586369B1
c) 3-Chloro-4-(4-chlorophenyl)furan-2,5-dione
With ice-cooling, 15.0 g (72 mmol) of 3-(4-chlorophenyl)furan-2,5-dione were added to 72 ml of thionyl chloride, and the mixture was admixed dropwise over a period 10 min with 11.5 g (145 mmol) of pyridine, the temperature being maintained at 10-12° C. The mixture was stirred at 10-12° C. for 30 min, heated at 75° C. for 10 min using a preheated heating bath and allowed to cool, and excess thionyl chloride was removed at 60° C. under reduced pressure. The residue was boiled with 200 ml of toluene and filtered, and the residue was again boiled with 100 ml of toluene and filtered whilst still hot. The filtrate was concentrated under reduced pressure and the residue was boiled with 100 ml of petroleum ether, cooled, filtered off, washed once more with petroleum ether and dried under reduced pressure. Yield: 16.2 g, m.p. 110-112° C.

reactant | 3-(4-chlorophenyl)furan-2,5-dione | 72 mmol, 15.0 g | ClC1=CC=C(C=C1)C=1C(OC(C1)=O)=O | C10H5ClO3
reactant | thionyl chloride | 72 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 145 mmol, 11.5 g | N1=CC=CC=C1 | C5H5N
product | 3-Chloro-4-(4-chlorophenyl)furan-2,5-dione | ClC=1C(OC(C1C1=CC=C(C=C1)Cl)=O)=O | C10H4Cl2O3
